US09163008B2
To an ice-cooled suspension of (S)-3-amino-2-hydroxypropanoic acid (0.904 g) in MeOH (15 mL) was added SOCl2 (2.0 mL, 27 mmol) over ˜2.5 minutes. After the addition the reaction was allowed to warm to room temperature. After stirring overnight, the reaction was evaporated in vacuo. MeOH was added and the mixture evaporated in vacuo a second time to yield the product (S)-methyl 3-amino-2-hydroxypropanoate hydrochloride as a colorless oil. 1H NMR (400 MHz, DMSO-d6): 8.16 (3H, s), 6.36 (1H, s), 4.38 (1H, br d, J=8.3 Hz), 3.68 (3H, s), 3.10 (1H, dd, J=12.9 Hz, 3.7 Hz), 2.90 (1H, dd, J=12.9 Hz, 8.6 Hz).

reactant | (S)-3-amino-2-hydroxypropanoic acid | 0.904 g | NC[C@@H](C(=O)O)O | C3H7NO3
reactant | SOCl2 | 27 mmol, 2.0 mL | O=S(Cl)Cl | Cl2OS
reactant | MeOH | 15 mL | CO | CH4O
product | (S)-methyl 3-amino-2-hydroxypropanoate hydrochloride | Cl.NC[C@@H](C(=O)OC)O | InChI=1S/C4H9NO3.ClH/c1-8-4(7)3(6)2-5;/h3,6H,2,5H2,1H3;1H/t3-;/m0./s1
